US06552013B1
Synthesis of N-(2(R/S)-hydroxy-2-(3,5-difluorophenyl)ethyl)-L-alanine
Following General Procedure EB and reacting 2-(3,5-difluorophenyl)-1,2-epoxyethane (Example ECl) and L-alanine methyl ester hydrochloride (Bachem), the title compound was isolated after flash chromatography with 3:1 to 1:1 (gradient) hexanes/ethyl acetate.

reactant | 2-(3,5-difluorophenyl)-1,2-epoxyethane | FC=1C=C(C=C(C1)F)C1CO1 | C8H6F2O
reactant | L-alanine methyl ester hydrochloride | Cl.COC([C@@H](N)C)=O
product | N-(2(R/S)-hydroxy-2-(3,5-difluorophenyl)ethyl)-L-alanine | OC(CN[C@@H](C)C(=O)O)C1=CC(=CC(=C1)F)F | C11H13F2NO3
